US07012075B2
To a solution of (1R)-1-(methoxycarbonyl)-3-methylbutyl 4-nitrobenzoate (1.59 g, 5.4 mmol) in methanol (15 mL) was added a freshly prepared solution of 1.5 M sodium methoxide in methanol (0.5 mL, 0.75 mmol). The resulting mixture was stirred at room temperature for 1 h, aqueous ammonium acetate (30 mL of 25% w/v) was added and the mixture was extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography using EtOAc in hexane to afford methyl (2R)-2-hydroxy-4-methylpentanoate as a colorless oil.

reactant | (1R)-1-(methoxycarbonyl)-3-methylbutyl 4-nitrobenzoate | 5.4 mmol, 1.59 g | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H](CC(C)C)C(=O)OC)C=C1 | C14H17NO6
reactant | sodium methoxide | 1.5 M | C[O-].[Na+]
reactant | ammonium acetate | 30 mL | C(C)(=O)[O-].[NH4+]
solvent | methanol | 15 mL | CO | CH4O
solvent | methanol | 0.75 mmol, 0.5 mL | CO | CH4O
product | methyl (2R)-2-hydroxy-4-methylpentanoate | O[C@@H](C(=O)OC)CC(C)C | C7H14O3
